US08791147B2
A 100 mL round-bottomed flask was charged with 1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid (1.8 g, 7.7 mmol) and 20 mL of THF. After cooling to −10° C., NEt3 (1.2 mL, 8.9 mmol) and ethyl chloroformate (0.84 mL, 8.5 mmol) were added. This mixture was stirred at that temp for 45 min, then an aq soln of NaBH4 (0.58 g, 15 mmol, in 10 mL of water) was added. After stirring for 3 h at −10° C., an additional 2 equiv of NaBH4 (solid) were added. The reaction was quenched with aq 1N HCl (50 mL) and extracted with CH2Cl2 (3×75 mL). The residue was purified by MPLC to give 1-(4-fluorophenyl)-5-(hydroxymethyl)pyridin-2(1H)-one.

reactant | 1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 7.7 mmol, 1.8 g | FC1=CC=C(C=C1)N1C=C(C=CC1=O)C(=O)O | C12H8FNO3
reactant | NEt3 | 8.9 mmol, 1.2 mL | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 8.5 mmol, 0.84 mL | ClC(=O)OCC | C3H5ClO2
reactant | NaBH4 | 15 mmol, 10 mL, 0.58 g | [BH4-].[Na+]
reactant | NaBH4 | 2 equiv | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-5-(hydroxymethyl)pyridin-2(1H)-one | FC1=CC=C(C=C1)N1C(C=CC(=C1)CO)=O | C12H10FNO2
